US07612114B2
Synthesized from N-ethyl-N-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]-4-(2-oxo-2-piperazin-1-ylethoxy)benzamide according to an analogous synthetic method to Example 337, ethyl[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl][4-(2-piperazin-1-ylethoxy)benzyl]amine (650 mg) was used according to an analogous synthetic method to Preparation Example 18 to provide ethyl[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]{4-[2-(4-methylpiperazin-1-yl)ethoxy]benzyl}amine (490 mg). The total amount of this compound was used according to an analogous synthetic method to Example 111 to provide the title compound (70 mg).

reactant | N-ethyl-N-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]-4-(2-oxo-2-piperazin-1-ylethoxy)benzamide | C(C)N(C(C1=CC=C(C=C1)OCC(N1CCNCC1)=O)=O)C1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC | C33H39N3O5
reactant | ethyl[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl][4-(2-piperazin-1-ylethoxy)benzyl]amine | 650 mg | C(C)N(CC1=CC=C(C=C1)OCCN1CCNCC1)C1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC | C33H43N3O3
product | ethyl[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]{4-[2-(4-methylpiperazin-1-yl)ethoxy]benzyl}amine | 490 mg | C(C)N(CC1=CC=C(C=C1)OCCN1CCN(CC1)C)C1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC | C34H45N3O3
